US06677368B2
Triethyl orthoformate (6 mL) was added to a solution of 4-(2,4-dimethyl-1H-pyrrol-3-yl)-1-methyl-1,2,3,6-tetrahydro-pyridine (360 mg) in TFA (6 mL) at 0° C. The mixture was stirred at 0° C. for 10 mins and then at rt for 40 mins. The solvent was removed and to the residue was added NaHCO3, extracted with ethyl acetate, dried and concentrated to give 356 mg of 3,5-dimethyl-4-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-pyrrole-2-carbaldehyde.

reactant | Triethyl orthoformate | 6 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-(2,4-dimethyl-1H-pyrrol-3-yl)-1-methyl-1,2,3,6-tetrahydro-pyridine | 360 mg | CC=1NC=C(C1C=1CCN(CC1)C)C | C12H18N2
solvent | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3,5-dimethyl-4-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-pyrrole-2-carbaldehyde | 356 mg | CC1=C(NC(=C1C=1CCN(CC1)C)C)C=O | C13H18N2O
